US05877191
Step C: (3R,5R,6S,7S)-(6-(4-Fluorophenyl)-3-(-2-methoxy-5-(trifluoromethyl)phenyl)-1-oxaspiro[4.4]non-7-yl)methanol
(3R,5R,6S,7S)-7-(Benzyloxymethyl)-6-(4-fluorophenyl)-3-(-2-methoxy-5-(trifluoromethyl)phenyl)-1-oxaspiro[4.4]nonane (2.4 mg, 0.0047 mmol) was stirred with 0.7 mg of 20% palladium(II) hydroxide m 0.5 mL of 95% ethanol under hydrogen at atmospheric pressure for 1.5 h. The mixture was filtered through a 0.45 micron filter and the catalyst was rinsed with additional 95% ethanol. The filtrate was evaporated to give 1.6 mg of the title compound. 1NMR (400 MHz, CDCl3): δ 7.43-7.32 (m, 4H), 7.03 (t, 2H, J=9 Hz ), 6.80 (d, 1H, J=9 Hz ), 3.75 (s, 3H), 3.72 (t, 1H, J 8 Hz ), 3.65-3.58 (m, 2H), 3.48 (dd, 1H, J=10, 5 Hz ), 2.82 (quintet, 1H, J=8 Hz ), 2.73-2.58 (m, 2H), 2.23 (dd, 1H, J=12, 8 Hz ), 2.18-2.02 (m, 3H), 1.99-1.88 (m, 1H), 1.66-1.54 (m, 1H). Mass spectrum (EI): m/z=424.1 (M+).

reactant | (3R,5R,6S,7S)-7-(Benzyloxymethyl)-6-(4-fluorophenyl)-3-(-2-methoxy-5-(trifluoromethyl)phenyl)-1-oxaspiro[4.4]nonane | 0.0047 mmol, 2.4 mg | C(C1=CC=CC=C1)OC[C@@H]1[C@H]([C@]2(C[C@@H](CO2)C2=C(C=CC(=C2)C(F)(F)F)OC)CC1)C1=CC=C(C=C1)F | C30H30F4O3
catalyst | palladium(II) hydroxide | 0.5 mL, 0.7 mg | [OH-].[Pd+2].[OH-]
solvent | ethanol | C(C)O | C2H6O
product | (3R,5R,6S,7S)-(6-(4-Fluorophenyl)-3-(-2-methoxy-5-(trifluoromethyl)phenyl)-1-oxaspiro[4.4]non-7-yl)methanol | 1.6 mg | FC1=CC=C(C=C1)[C@H]1[C@]2(C[C@@H](CO2)C2=C(C=CC(=C2)C(F)(F)F)OC)CC[C@@H]1CO | C23H24F4O3
